US04091016
Preparation of N-Methyl-N-(n-Butylthiosulfenyl)Carbamoyl Fluoride (Method I)
Prepared by the procedure of Example II by reacting n-butylthiosulfenyl chloride with methylcarbamoyl fluoride b.p. 68°-70° C/0.15 Torr

reactant | n-butylthiosulfenyl chloride | C(CCC)SSCl | C4H9ClS2
reactant | methylcarbamoyl fluoride | CNC(=O)F | C2H4FNO
product | N-Methyl-N-(n-Butylthiosulfenyl)Carbamoyl Fluoride | CN(C(=O)F)SSCCCC | C6H12FNOS2
